US07074777B2
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct (2.3 g), was added 1,3-dimethyl-2-imidazolidinone (30 ml), followed by heating at 140° C. for 3 hours. The reaction mixture was extracted with hexane, the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent. The resulting residue was purified by column chromatography (hexane:ethyl acetate=1:2) to give 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene. To a suspension of anhydrous cerous (III) chloride (2.6 g) and tetrahydrofuran (8.3 ml), was added a 1.0M methylmagnesium bromide/tetrahydrofuran solution (8.7 ml) at 0° C., followed by stirring for 0.5 hours. The reaction mixture and the above-obtained 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene (1.5 g) were mixed and reacted for 1 hour. The reaction mixture was added to a mixture of potassium hydrogen sulfate solution and hexane cooled at −10° C. in order to stop the reaction and then filtered. The organic layer was dried over anhydrous magnesium sulfate, evaporated under reduced pressure to remove the solvent and the resultant was reacted for 1 hour with Grignard solution, which was prepared as above. The thus obtained reaction mixture was worked up as above and purified by column chromatography (hexane:ethyl acetate=7:1) to give the titled compound (730 mg).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 2.3 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C
solvent | 1,3-dimethyl-2-imidazolidinone | 30 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7-diene | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C37H67NO4Si2
